US08309581B2
N-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenyl]-3-fluoro-4-(1H-tetrazol-5-yl)-benzamide
The title compound was prepared in analogy to Example 84, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenylamine (Example 84, intermediate a) and 3-fluoro-4-(1H-tetrazol-5-yl)-benzoic acid methyl ester. Off-white powder (35%). MS (Turbo Spray): m/z=566.1 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenylamine | ClC=1C=CC(=C(C1)N)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H20ClF2N3
reactant | 3-fluoro-4-(1H-tetrazol-5-yl)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C1=NN=NN1)F)=O | C9H7FN4O2
product | N-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenyl]-3-fluoro-4-(1H-tetrazol-5-yl)-benzamide | ClC=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)C1=NN=NN1)F)=O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C28H23ClF3N7O
